US07960584B2
Step 2: 3-(4-t-butyl-phenyl)-but-2-enoic acid-3-fluoro-4-methanesulfonylamino-benzylamide
To the 50 ml of round bottom flask were put N-(4-aminomethyl-2-fluoro-phenyl)-methanesulfonamide hydrochloride (0.14 g, 0.55 mmol), 3-(4-t-butylphenyl)-but-2-enoic acid (1.0 eq, 0.12 g) and DMTMM (1.2 eq, 0.183 g). To this mixture was poured 25 ml tetrahydrofuran, added triethylamine (excess, 0.5 ml) and stirred 12 hours at room temperature. After confirming the completion of the reaction with TLC, the reaction mixture was extracted with ethylacetate, washed 1N HCl solution. The combined organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was purified with column chromatography (n-hexane/ethyl acetate=1/1) to yield the title compound (41.5 mg)

reactant | N-(4-aminomethyl-2-fluoro-phenyl)-methanesulfonamide hydrochloride | 0.55 mmol, 0.14 g | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
reactant | 3-(4-t-butylphenyl)-but-2-enoic acid | 0.12 g, 1.0 eq | C(C)(C)(C)C1=CC=C(C=C1)C(=CC(=O)O)C | C14H18O2
reactant | DMTMM | 0.183 g, 1.2 eq | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 3-(4-t-butyl-phenyl)-but-2-enoic acid-3-fluoro-4-methanesulfonylamino-benzylamide | 41.5 mg | FC=1C=C(CNC(C=C(C)C2=CC=C(C=C2)C(C)(C)C)=O)C=CC1NS(=O)(=O)C | C22H27FN2O3S
